US07863291B2
To 6-(difluoromethoxy)benzo[d]thiazol-2-amine (0.5 g, 2.3 mmol) in acetonitrile (15 mL) was added 1,1′-thiocarbonyldiimidazole (0.49 g, 2.8 mmol). The reaction was stirred at 70° C. overnight. The reaction was cooled to room temperature and the precipitate was filtered to yield N-(6-(difluoromethoxy)benzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide (500 mg, 1.53 mmol, 66.3% yield) as a yellow solid.

reactant | 6-(difluoromethoxy)benzo[d]thiazol-2-amine | 2.3 mmol, 0.5 g | FC(OC1=CC2=C(N=C(S2)N)C=C1)F | C8H6F2N2OS
reactant | 1,1′-thiocarbonyldiimidazole | 2.8 mmol, 0.49 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N-(6-(difluoromethoxy)benzo[d]thiazol-2-yl)-1H-imidazole-1-carbothioamide | 1.53 mmol, 500 mg, 66.3% yield | FC(OC1=CC2=C(N=C(S2)NC(=S)N2C=NC=C2)C=C1)F | C12H8F2N4OS2
